US08247403B2
(1) N-benzyl-4-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide
To a solution of N-benzylethanolamine (6.37 g, 42.1 mmol), triethylamine (8.81 ml, 63.2 mmol) in tetrahydrofuran (200 ml) was added under ice-cooling 4-bromo-2-fluorobenzoylchloride (10.0 g, 42.1 mmol), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (1.45 g, 98.0%) as an oil.

reactant | N-benzylethanolamine | 42.1 mmol, 6.37 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | triethylamine | 63.2 mmol, 8.81 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-fluorobenzoylchloride | 42.1 mmol, 10.0 g | BrC1=CC(=C(C(=O)Cl)C=C1)F | C7H3BrClFO
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-benzyl-4-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide | 1.45 g, 98.0% | C(C1=CC=CC=C1)N(C(C1=C(C=C(C=C1)Br)F)=O)CCO | C16H15BrFNO2
